US04112096
1-Methylpyrazolo[1,5-c]quinazolin-5(6H)-one-2-carboxylic acid
A suspension of 25.7 g (0.10 mole) of 1-methyl-pyrazolo[1,5-c]quinazolin-5(6H)-one-2-carboxylic acid ethyl ester in 2.5 l. of 10% alcoholic potassium hydroxide is refluxed for 3 hours, cooled to room temperature and filtered. The solid is dissolved in water extracted with chloroform, treated with Norit-A and filtered. The filtrate is cooled in an ice bath and acidified (Congo red) with 25 ml of concentrated hydrochloric acid. The white precipitate is filtered, digested with 1 l. of hot water and filtered, and dried to give the title compound.

reactant | 1-methyl-pyrazolo[1,5-c]quinazolin-5(6H)-one-2-carboxylic acid ethyl ester | 0.10 mole, 25.7 g | C(C)OC(=O)C1=NN2C(NC=3C=CC=CC3C2=C1C)=O | C14H13N3O3
reactant | potassium hydroxide | [OH-].[K+]
product | 1-Methylpyrazolo[1,5-c]quinazolin-5(6H)-one-2-carboxylic acid | CC=1C(=NN2C(NC=3C=CC=CC3C21)=O)C(=O)O | C12H9N3O3
